US05332757
Using an analogous procedure to that described in Example 68, 4'-[4-(2-cyclopropyl-4-methyl-1,3-dioxolan-4-yl)thien-2-ylthio]acetophenone was reacted with hydroxylamine hydrochloride to give 4'-[4-(2-cyclopropyl-4-methyl-1,3-dioxolan-4-yl)thien-2-ylthio]acetophenone oxime in 50% yield as an oil.

reactant | 4'-[4-(2-cyclopropyl-4-methyl-1,3-dioxolan-4-yl)thien-2-ylthio]acetophenone | C1(CC1)C1OCC(O1)(C)C=1C=C(SC1)SC1=CC=C(C=C1)C(C)=O | C19H20O3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4'-[4-(2-cyclopropyl-4-methyl-1,3-dioxolan-4-yl)thien-2-ylthio]acetophenone oxime | 50% yield | C1(CC1)C1OCC(O1)(C)C=1C=C(SC1)SC1=CC=C(C=C1)C(C)=NO | C19H21NO3S2
